US03974140
B. 1-Trimethylsilyl-imidazolidine-2-thione:
30.6 parts by weight of imidazolidine-2-thione were boiled overnight with 54.4 parts by weight of trimethylchlorosilane and 51.5 parts by weight of triethylamine in absolute tetrahydrofurane. The warm suspension was freed of the precipitated triethylamine hydrochloride by filtration, and the filtrate was evaporated and dried n a vacuum desiccator.

reactant | imidazolidine-2-thione | N1C(NCC1)=S | C3H6N2S
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-Trimethylsilyl-imidazolidine-2-thione | C[Si](N1C(NCC1)=S)(C)C | C6H14N2SSi
